Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
1.  Uterine prolapse (stage III).
2.  Stage II anterior wall prolapse.
 
Major Surgical or Invasive Procedure:
Total vaginal hysterectomy, right salpingoopherectomy, bilateral 
uterosacral ligament suspension and cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ gravida 7, para 1,
who was initially referred to me by Dr. ___ in ___ for
symptom of pelvic organ prolapse.  She initially was scheduled
for surgery but changed her mind and returned ___ years later
complaining of worsening prolapse.  She was examined and was
found to have stage III uterine vaginal prolapse.  She had had
a prior urodynamic test that showed some stress incontinence
capacity.  She declined any anti-incontinent procedure.  She
declined any conservative measure and elected to proceed with
surgical management.  The risks, benefits and alternatives
were reviewed, and she elected to proceed.
 
Past Medical History:
HTN  
depression/anxiety: not on medications  

 
Social History:
___
Family History:
no history of CAD 
 
Physical Exam:
PE: Comfortable
CV: RRR, no m/r/g
Pulm: CTAB, no crackles or wheezes appreciated
Abd: soft,distended, appropriately tender, w/o rebound or
guarding
GU: pad with minimal spotting
Ext: warm, well perfuse, no tenderness or erythema
 
Pertinent Results:
___ 02:20PM   WBC-5.7 RBC-4.25 HGB-12.4 HCT-37.4 MCV-88 
MCH-29.2 MCHC-33.2 RDW-12.7 RDWSD-40.6
___ 02:20PM   PLT COUNT-255
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service after 
undergoing a total vaginal hysterectomy, right 
salpingoopherectomy, uterosacral ligament vault suspension and 
cystoscopy for uterine prolapse and cystocele. Please see the 
operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine and toradol. 
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to 
oxycodone, ibuprofen and tramadol. For her OSA, she was 
monitored with telemetry. By post-operative day 1, she was 
tolerating a regular diet, voiding spontaneously, ambulating 
independently, and pain was controlled with oral medications. 
She was then discharged home in stable condition with outpatient 
follow-up scheduled.

 
Medications on Admission:
3.  ALPRAZolam 0.25 mg PO TID:PRN anxiety  
4.  Aspirin 81 mg PO DAILY  
5.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Metoprolol Tartrate 25 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not exceed 4000mg in 24 hours. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6h prn Disp 
#*60 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
___ cause drowsiness. Partial fill on request. 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q4h prn 
Disp #*6 Tablet Refills:*0 
3.  ALPRAZolam 0.25 mg PO TID:PRN anxiety  
4.  Aspirin 81 mg PO DAILY  
5.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Metoprolol Tartrate 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine prolapse, cystocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
 * Take your medications as prescribed.
 * Do not drive while taking narcotics.
 * Take a stool softener such as colace while taking narcotics 
to prevent constipation.
 * Do not combine narcotic and sedative medications or alcohol.
 * Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
 * No strenuous activity until your post-op appointment.
 * Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
 * No heavy lifting of objects >10 lbs for 6 weeks.
 * You may eat a regular diet.
 * You may walk up and down stairs.

Call your doctor for:
 * fever > 100.4F
 * severe abdominal pain
 * difficulty urinating
 * vaginal bleeding requiring >1 pad/hr
 * abnormal vaginal discharge
 * redness or drainage from incision
 * nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___